US06743795B1
Preparation of 6-chloro-2-(1H-5-indazolylamino)-3-nitropyridine
To the solution of 2,6-dichloro-3-nitropyridine (4 g) and 5-aminoindazole (2.8 g) in acetonitrile (50 ml) was added triethylamine (3.2 ml), and then the solution was reacted at 20-25° C. for 12 hr. The reaction mixture was cooled at room temperature, added H2O 30 ml slowly, and then reacted at 20° C. for 1 hr. The reaction mixture was filtered, washed with the mixture solution(15 ml) of acetonitrile: H2O=1:1 (volume ratio) and dried at 50° C. in vacuo to obtain the desired compound (4.7 g, 78%).

reactant | 2,6-dichloro-3-nitropyridine | 4 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | 5-aminoindazole | 2.8 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
reactant | H2O | 30 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 6-chloro-2-(1H-5-indazolylamino)-3-nitropyridine | 4.7 g, 78% | ClC1=CC=C(C(=N1)NC=1C=C2C=NNC2=CC1)[N+](=O)[O-] | C12H8ClN5O2
